US09290468B2
Step 4: methyl 3,4-difluoro-2-((2-chlorophenyl)amino)-5-((4-methoxybenzyl)thio)benzoate
To a solution of methyl 5-bromo-3,4-difluoro-2-((2-chlorophenyl)amino)benzoate (22.84 g, 60.65 mmol) in anhydrous 1,4-dioxane (200 mL) was added N,N-diisopropylethylamine (15.68 g, 121.30 mmol). Then Pd2(dba)3 (2.78 g, 3.03 mmol) followed by Xantphos (3.51 g, 6.06 mmol) and 4-methoxy-α-toluenethiol (10.27 g, 66.72 mmol) was added under nitrogen atmosphere. The mixture was stirred overnight at 100° C. under N2 atmosphere and then allowed to warm to ambient temperature. The insoluble matter was filtered off and the filter cake was washed ethyl acetate. The filtrate was diluted with water (300 mL) and extracted with ethyl acetate (100 mL×3). The combined organic layers were washed with water (100 mL) and brine (100 mL) sequentially, dried over Na2SO4, filtered and concentrated. The crude product was purified by column chromatography on silica gel (petroleum ether/ethyl acetate, 50:1, v/v) to give the desired product (pale yellow solid, 24.18 g, 88.6% yield). 1H NMR (400 MHz, CDCl3): δ 9.14 (s, 1H), 7.77 (dd, 1H), 7.41 (dd, 1H), 7.24 (m, 3H), 7.19 (m, 1H), 7.01 (m, 1H), 6.88 (m, 2H), 4.02 (s, 2H), 3.92 (s, 3H), 3.81 (s, 3H).

reactant | methyl 5-bromo-3,4-difluoro-2-((2-chlorophenyl)amino)benzoate | 60.65 mmol, 22.84 g | BrC=1C(=C(C(=C(C(=O)OC)C1)NC1=C(C=CC=C1)Cl)F)F | C14H9BrClF2NO2
reactant | N,N-diisopropylethylamine | 121.30 mmol, 15.68 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Xantphos | 6.06 mmol, 3.51 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 4-methoxy-α-toluenethiol | 66.72 mmol, 10.27 g | COC1=CC=C(C=C1)CS | C8H10OS
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 3.03 mmol, 2.78 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 3,4-difluoro-2-((2-chlorophenyl)amino)-5-((4-methoxybenzyl)thio)benzoate | 24.18 g, 88.6% yield | FC=1C(=C(C(=O)OC)C=C(C1F)SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)Cl | C22H18ClF2NO3S
